US04894383
70 ml of water are added to a solution of 90 g (0.64 mol) of 4-chlorobenzaldehyde and 68.5 g (0.6 mol) of 2-heptanone in 300 ml of ethanol and directly thereafter a solution of 1.7 g of sodium hydroxide in 17 ml of water is added. The mixture is initially stirred for 1 hour at room temperature, then 0.6 g of solid sodium hydroxide is added and the mixture is stirred for a further 64 hours. The precipitated product is filtered off with suction, washed with 1 liter of water, pressed out on a clay plate and then dried in vacuo for 16 hours over phosphorus pentoxide. 135 g (95.1% of theory) of 1-(4-chlorophenyl)-1-octen-3-one are obtained in the form of a pale yellow solid of melting point 44°-47° C.

reactant | 4-chlorobenzaldehyde | 0.64 mol, 90 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 2-heptanone | 0.6 mol, 68.5 g | CC(CCCCC)=O | C7H14O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 17 ml | O | H2O
catalyst | sodium hydroxide | 1.7 g | [OH-].[Na+]
solvent | water | 70 ml | O | H2O
product | 1-(4-chlorophenyl)-1-octen-3-one | 135 g, 95.1% | ClC1=CC=C(C=C1)C=CC(CCCCC)=O | C14H17ClO
